US05864039
4-Amino-N-(1-(4-aminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (0.8 g) was dissolved in dimethylformamide (10 ml), and benzoic acid (0.25 g) and 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (0.44 g) were added. The mixture was stirred at room temperature for 12 hr. The reaction mixture was concentrated under reduced pressure. Aqueous potassium carbonate solution was added to the residue and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 0.2 g of 4-amino-N-(1-(4-benzoylaminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide.

reactant | 4-Amino-N-(1-(4-aminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 0.8 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCN)C=C1Cl)OC | C18H29ClN4O2
reactant | benzoic acid | 0.25 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.44 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-amino-N-(1-(4-benzoylaminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 0.2 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCNC(C2=CC=CC=C2)=O)C=C1Cl)OC | C25H33ClN4O3
